US07652061B2
To a solution of the title B compound, (R)-1-{2-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-acetyl}-pyrrolidine-2-carboxylic acid ethyl ester (1.3 g, 2.9 mmol) in 25 mL of methanol at RT is added 1 N aqueous sodium hydroxide (8.7 mL). The mixture is stirred for 20 h and washed with ethyl acetate. The aqueous layer is acidified with 1 N aqueous hydrochloric acid (HCl), extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate and concentrated to give an oil. The crude product is purified by flash chromatography (silica gel) eluting with ethyl acetate→ethyl acetate:acetic acid (2:1) to give (R)-1-{2-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-acetyl}-pyrrolidine-2-carboxylic acid as a foam: MS m/z 419.1 [M−1]−.

reactant | (R)-1-{2-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-acetyl}-pyrrolidine-2-carboxylic acid ethyl ester | 2.9 mmol, 1.3 g | C(C)OC(=O)[C@@H]1N(CCC1)C(CC1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)=O | C26H28N2O5
reactant | sodium hydroxide | 1 N, 8.7 mL | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | (R)-1-{2-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-acetyl}-pyrrolidine-2-carboxylic acid | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(C=CC1)CC(=O)N1[C@H](CCC1)C(=O)O | C24H24N2O5
